US06958395B2
2,3-Diaminopropionic acid methyl ester dihydrochloride
2,3-Diaminopropionic acid monohydrochloride (2.0 g, 14.3 mmol) is suspended in dry methanol (80 ml) and cooled on 0° C. Dry HCl gas is introduced into the solution for 30 min. Stirring is carried out at room temperature for 48 h, and the solvent is then removed in vacuo. The desired compound is obtained as a colorless solid and used directly for the next reaction.

reactant | 2,3-Diaminopropionic acid monohydrochloride | 14.3 mmol, 2.0 g | Cl.NC(C(=O)O)CN
reactant | HCl | Cl | ClH
reactant | methanol | 80 ml | CO | CH4O
product | 2,3-Diaminopropionic acid methyl ester dihydrochloride | Cl.Cl.COC(C(CN)N)=O | InChI=1S/C4H10N2O2.2ClH/c1-8-4(7)3(6)2-5;;/h3H,2,5-6H2,1H3;2*1H
